US03932394
Sirodesmin C (5.0 mg.) in dry pyridine (0.1 ml.) was treated with thionyl chloride (0.01 ml.) for 10 minutes at 0°C., then added to iced-water (5 ml.) and left for 15 minutes. The solution was adjusted to pH 2 with 2N.sulphuric acid, then extracted with chloroform (3 × 5 ml.). The extracts were dried over sodium sulphate, then concentrated to yield Sirodesmin A as an oil (4.3 mg.).

reactant | Sirodesmin C | 5.0 mg | CC1C(C(=O)[C@@]2(O1)C[C@@H]3[C@]([C@@H]2OC(=O)C)(C[C@]45N3C(=O)[C@](N(C4=O)C)(SSS5)CO)O)(C)C | C20H26N2O8S3
reactant | thionyl chloride | 0.01 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 5 ml | O | H2O
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
product | Sirodesmin A | CC1C(C(=O)C2(O1)CC3C(C2OC(=O)C)(CC45N3C(=O)C(N(C4=O)C)(SS5)CO)O)(C)C | C20H26N2O8S2
